US09371473B2
Benzoyl Saccharin Thiourea (“BSTU”) Adduct
To a 250 mL 3-neck RBF equipped with a condenser, magnetic stirrer, thermo-probe, nitrogen purge and pressure-equilibrated addition funnel was added benzoyl isothiocyanate (25.0 g, 0.150 mol) and saccharin (28.1 g, 0.150 mol) followed by dichloromethane (100 mL). The mixture was cooled in an ice-water bath at a temperature below 5° C., at which point water (28.1 g, 0.150 mol) and acetone as the solvent and dichloromethane (100 mL) were added slowly over a period of time of about 30 minutes. The ice-water bath was removed and the reaction mixture was stirred under a nitrogen purge overnight. The reaction mixture was then concentrated in vacuo at a temperature of 40° C. to provide a solid that was dried to constant weight in vacuo at a temperature of 50° C. and a pressure of <1 mTorr in a 37% yield.

reactant | benzoyl isothiocyanate | 0.150 mol, 25.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | saccharin | 0.150 mol, 28.1 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | water | 0.150 mol, 28.1 g | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Benzoyl Saccharin Thiourea | 37% yield | NC(=S)N.C(C1=CC=CC=C1)(=O)N1S(=O)(=O)C2=CC=CC=C2C1=O | InChI=1S/C14H9NO4S.CH4N2S/c16-13(10-6-2-1-3-7-10)15-14(17)11-8-4-5-9-12(11)20(15,18)19;2-1(3)4/h1-9H;(H4,2,3,4)
